US04307116
N,N'-Dicyclohexylcarbodiimide (1.11 g) is added to a suspension, cooled to +4° C., of 2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetic acid, syn isomer (2.17 g) and 4-(2-tert.-butyoxycarbonylamino-ethyl)-5,6-dioxo-3-thioxo-perhydro-1,2,4-triazine (1.05 g) in ethyl acetate (50 cc). The mixture is stirred for 4 hours at 20° C., filtered and concentrated to dryness at 20° C. under 20 mm Hg (2.7 kPa). The residue is taken up in methylene chloride (20 cc) and the solution is poured into diisopropyl ether (250 cc). After filtration and drying, 4-(2-tert.-butoxycarbonylamino-ethyl)-5,6-dioxo-3-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetylthio]-1,4,5,6-tetrahydro-1,2,4-triazine (syn isomer) (0.73 g) is obtained in the form of a yellow powder.

reactant | N,N'-Dicyclohexylcarbodiimide | 1.11 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetic acid | CON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21N3O3S
reactant | 4-(2-tert.-butyoxycarbonylamino-ethyl)-5,6-dioxo-3-thioxo-perhydro-1,2,4-triazine | 1.05 g | C(C)(C)(C)OC(=O)NCCN1C(NNC(C1=O)=O)=S | C10H16N4O4S
solvent | ethyl acetate | 50 cc | C(C)(=O)OCC | C4H8O2
product | 4-(2-tert.-butoxycarbonylamino-ethyl)-5,6-dioxo-3-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetylthio]-1,4,5,6-tetrahydro-1,2,4-triazine | 0.73 g | C(C)(C)(C)OC(=O)NCCN1C(=NNC(C1=O)=O)SC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O | C35H35N7O6S2
